US08497360B2
To a solution of 5-(benzyloxy)methyl-2′-deoxyuridine (29 mg, 0.082 mmol) in absolute ethanol (2 mL) under a nitrogen atmosphere was added 10 mg of palladium on activated carbon (10 wt. %, 10 mg) (CAUTION: flammable solid! Ensure handling in oxygen-free atmosphere). The mixture was flushed with hydrogen gas and stirred at room temperature for 30 minutes while being monitored by TLC every five minutes. The mixture was filtered, concentrated under reduced pressure, and dried under vacuum to yield thymidine (18 mg, 88%) that was identified by comparison to the authentic sample (TLC and 1H NMR).

reactant | 5-(benzyloxy)methyl-2′-deoxyuridine | 0.082 mmol, 29 mg | C(C1=CC=CC=C1)OCC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C17H20N2O6
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 10 mg | [Pd] | Pd
product | thymidine | 18 mg, 88% | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
